US04581449
A process according to claim 1 in which 7-[ethyl(2-hydroxypropyl)amino]-3-methyl-4-oxo-4H-pyridazino-[6,1-c] [1,2,4]triazine is hydrolyzed in dilute hydrochloric acid and the 3-[ethyl(2-hydroxypropyl)amino]-6-hydrazinopyridazine obtained is acylated with ethyl chlorocarbonate to give ethyl (6-[ethyl(2-hydroxypropyl)amino]-3-pyridazinyl)-hydrazinocarboxylate.

reactant | 7-[ethyl(2-hydroxypropyl)amino]-3-methyl-4-oxo-4H-pyridazino-[6,1-c] [1,2,4]triazine | C(C)N(C1=NN2C(=NN=C(C2=O)C)C=C1)CC(C)O | C12H17N5O2
solvent | hydrochloric acid | Cl | ClH
product | 3-[ethyl(2-hydroxypropyl)amino]-6-hydrazinopyridazine | C(C)N(C=1N=NC(=CC1)NN)CC(C)O | C9H17N5O
